US07405305B2
(5-Methoxybenzofur-7-yl)acetic acid ethyl ester
Dissolve 7-bromo-5-methoxybenzofuran (6.0 g, 26.43 mmol), bis(dibenzylideneacetone)palladium (1.32 g, 2.3 mmol) and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (2.7 g, 6.86 mmol) in anhydrous tetrahydrofuran (36 mL), add freshly prepared 2-ethoxy-2-oxoethylzinc bromide in tetrahydrofuran (66 mL). Heat at 50-60° C. for 5 h. Cool and filter mixture through celite and evaporate to a thick red-brown oil (30 g). Purify by flash chromatography using a gradient of ethyl acetate in hexanes yields the pure compound as a thick yellow oil (6.2 g, quant). ESMS m/z (relative intensity) 235.2 (M++H+, 10), 161.1 (M+−CO2Et+H+, 100).

reactant | 7-bromo-5-methoxybenzofuran | 26.43 mmol, 6.0 g | BrC1=CC(=CC=2C=COC21)OC | C9H7BrO2
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 6.86 mmol, 2.7 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 2-ethoxy-2-oxoethylzinc bromide | [Br-].C(C)OC(C[Zn+])=O
solvent | tetrahydrofuran | 36 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 66 mL | O1CCCC1 | C4H8O
catalyst | bis(dibenzylideneacetone)palladium | 2.3 mmol, 1.32 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | (5-Methoxybenzofur-7-yl)acetic acid ethyl ester | 6.2 g | C(C)OC(CC1=CC(=CC=2C=COC21)OC)=O | C13H14O4
